US07414076B2
Preparation of 3-(4-phenylpiperazin-1-yl)-1-propanesulfonic acid (Compound K)
To a solution of 1-phenylpiperazine (2.0 g, 1.9 mL, 12.3 mmol) in acetone (20 mL) was added 1,3-propane sultone (1.53 g, 12.9 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. This allowed the isolation of compound K, 3.04 g (87%).

reactant | 1-phenylpiperazine | 12.3 mmol, 1.9 mL, 2.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 1,3-propane sultone | 12.9 mmol, 1.53 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-(4-phenylpiperazin-1-yl)-1-propanesulfonic acid | C1(=CC=CC=C1)N1CCN(CC1)CCCS(=O)(=O)O | C13H20N2O3S
